US06815413B2
1,4-Dioxaspiro-[4.15]-eicosan-13-one
To a solution of 44.0 g (175 mmol) of 1,9-cyclohexadecanedione in 125 ml of toluene is added 13.1 g (210 mmol) of ethylene glycol and 500 mg (2.5 mmol) of p-toluenesulphonic acid. The mixture is then heated with a water separator until visible amounts of water are no longer eliminated. Washing with sat. NaHCO3 solution is then carried out, the phases are separated, the organic phase is dried over Na2SO4, filtration is carried out, and the solvent is removed on a rotary evaporator. This gives 57.7 g of a solid comprising 3 components having the following GC content: 1,9-cyclohexadecanedione (33.7%); 1,4-dioxaspiro-[4.15]-eicosan-13-one (52.5%); 1,4,14,17-tetraoxadispiro-[4.7.4.7]-tetracosane (13.2%).

reactant | 1,9-cyclohexadecanedione | 175 mmol, 44.0 g | C1(CCCCCCCC(CCCCCCC1)=O)=O | C16H28O2
reactant | ethylene glycol | 210 mmol, 13.1 g | C(CO)O | C2H6O2
reactant | p-toluenesulphonic acid | 2.5 mmol, 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4-Dioxaspiro-[4.15]-eicosan-13-one | O1CCOC12CCCCCCCC(CCCCCCC2)=O | C18H32O3
